US06596772B1
A mixture of 4-(3-hydroxyphenoxy)benzoic acid (100 mg, 0.434 mmol), 4-(trifluoromethylsulfonyl)chlorobenzene (106 mg, 1 equiv.) and potassium carbonate (240 mg, 4 equiv.) in DMF was heated to 100° C. overnight. The reaction was poured into water, extracted with EtOAc, washed the organic layer with water, brine, dried and concentrated. The residue was column chromatographed to give 4-[3-(4-trifluoromethanesulfonyl-phenoxy)-phenoxy]-benzoic acid. 1HNMR (300 MHz, DMSO-d6) δ 8.09 (d, J=8.97 Hz, 2H), 7.95 (d, J=8.94 Hz, 2H), 7.56 (t, J=8.54 Hz, 1H), 7.33 (d, J=8.94 Hz, 2H), 7.10 (d, J=8.97 Hz, 2H), 7.04-7.11 (m, 3H). MS-EI m/z 438 [M+].

reactant | 4-(3-hydroxyphenoxy)benzoic acid | 0.434 mmol, 100 mg | OC=1C=C(OC2=CC=C(C(=O)O)C=C2)C=CC1 | C13H10O4
reactant | 4-(trifluoromethylsulfonyl)chlorobenzene | 106 mg, 1 equiv. | FC(S(=O)(=O)C1=CC=C(C=C1)Cl)(F)F | C7H4ClF3O2S
reactant | potassium carbonate | 240 mg, 4 equiv. | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-[3-(4-trifluoromethanesulfonyl-phenoxy)-phenoxy]-benzoic acid | FC(S(=O)(=O)C1=CC=C(OC=2C=C(OC3=CC=C(C(=O)O)C=C3)C=CC2)C=C1)(F)F | C20H13F3O6S
